US06596734B1
N-[1-(3,4-dichloro-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide hydrochloride.
A solution of N-[6-benzyloxy-1-(3,4-dichloro-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide oxalate (0.5 g, 0.00085 mol) in 15 mL of acetic acid and 30 mL of conc. HCl was refluxed for 1 h, evaporated to dryness and the residue was crystallized from methanol-ether mixture. Yield 0.23 g (62%). mp 249-250° C. 1H NMR (Me2SO-d6) 300 MHz: δ 10.17 (s, 1H), 9.23 (brs, 2H), 8.84 (s, 1H), 7.75 (s, 1H), 7.61 (d, J=7.8 Hz, 1H), 7.42 (d, J=8.1 Hz, 1H), 7.10 (s, 1H), 6.75 (s, 1H), 4.70 (brs, 1H), 3.28-3.43 (brs, 4H), 3.10-3.22 (m, 1H), 2.96-3.04 (m, 1H), 2.90 (s, 3H). MS (ESI): 402 (MH+).

reactant | N-[6-benzyloxy-1-(3,4-dichloro-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide oxalate | 0.00085 mol, 0.5 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1NS(=O)(=O)C)CC1=CC(=C(C=C1)Cl)Cl
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 30 mL | Cl | ClH
product | N-[1-(3,4-dichloro-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-methanesulfonamide hydrochloride | Cl.ClC=1C=C(CC2NCCC3=CC(=C(C=C23)NS(=O)(=O)C)O)C=CC1Cl | InChI=1S/C17H18Cl2N2O3S.ClH/c1-25(23,24)21-16-9-12-11(8-17(16)22)4-5-20-15(12)7-10-2-3-13(18)14(19)6-10;/h2-3,6,8-9,15,20-22H,4-5,7H2,1H3;1H
